US04563450
A mixture of benzhydryl 7-(2-phenylacetamido)-3-[1-(2-propynyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylate-1-oxide (9.3 g) and dry N,N-dimethylformamide (93 ml) was cooled to -30° C. and thereto was added phosphorus trichloride (3.9 g). The resulting solution was stirred for 40 minutes at -30° C. The reaction mixture was allowed to warm to ambient temperature, added to water (150 ml) and then extracted with ethyl acetate (×3). The extracts were combined, washed successively with a saturated aqueous solution of sodium bicarbonate (×2) and water (×3), dried over magnesium sulfate, treated with activated charcoal and then evaporated. The residue was pulverized in a mixture of isopropyl ether and n-hexane, collected by filtration, washed with n-hexane and then dried to give benzhydryl 7-(2-phenylacetamido)-3-[1-(2-propynyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylate (8.07 g).

reactant | benzhydryl 7-(2-phenylacetamido)-3-[1-(2-propynyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylate-1-oxide | 9.3 g | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2=O)CSC2=NN=NN2CC#C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C33H28N6O5S2
reactant | N,N-dimethylformamide | 93 ml | CN(C=O)C | C3H7NO
reactant | phosphorus trichloride | 3.9 g | P(Cl)(Cl)Cl | Cl3P
solvent | water | 150 ml | O | H2O
product | benzhydryl 7-(2-phenylacetamido)-3-[1-(2-propynyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylate | 8.07 g | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC#C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C33H28N6O4S2
